US07141596B2
Step 1. Synthesis of [2-(4-Hydroxy-phenyl)-ethyl]-carbamic acid tert-butyl ester (23-A)
Into the reaction was dissolved 4-(2-amino-ethyl)-phenol hydrochloride (11.62 g, 67 mmol) in water (30 mL) and tetrahydrofuran (30 mL). Sodium bicarbonate (12.52 g, 147 mmol) was added, followed by di-tert-butyl dicarbonate (16.06 g, 74 mmol). The reaction was stirred overnight. Water (100 mL) was added and the mixture was extracted with ethyl acetate (100 mL) three times. The organic phases were combined and dried with MgSO4. The solution was filtered through a glass frit and the solvent concentrated in vacuo to give 15.88 g of a clear oil (100%). 1H NMR (400 MHz, CDCl3): δ 7.03 (d, J=8.3 Hz, 2H), 6.77 (d, J=8.3 Hz, 2H), 4.55 (br s, 1H), 3.33 (m, 2H), 2.71 (t, J=7.2Hz, 2H), 1.44 (s, 9H); LCMS found for C13H19NNaO3 (M+Na)+: m/z=260.

reactant | 4-(2-amino-ethyl)-phenol hydrochloride | 67 mmol, 11.62 g | Cl.NCCC1=CC=C(C=C1)O
reactant | Sodium bicarbonate | 147 mmol, 12.52 g | C([O-])(O)=O.[Na+]
reactant | di-tert-butyl dicarbonate | 74 mmol, 16.06 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 30 mL | O | H2O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | Water | 100 mL | O | H2O
product | [2-(4-Hydroxy-phenyl)-ethyl]-carbamic acid tert-butyl ester | 15.88 g, 100% | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)O)=O | C13H19NO3
